US06312759B1
(Synthesis of 1,1,1,2,4,4,5,5,5-nonafluoropentane)
To 1,1,1,2,3,4,4,5,5,5-decafluoropentane (at a purity of 99.9%, 20 g, 79.4 mmol) was added 100 ml of an aqueous 4M potassium carbonate solution; and the resulting mixture was agitated at 30° C. for 10 hours. The reaction solution was separated into two layers; and the organic layer was again charged, together with 5% palladium carbon (0.55 g) and 0.33 g of tridecane, in a 70-ml autoclave, for hydrogenation at 50 ° C. under a hydrogen pressure of 6 kg/cm2. When hydrogen absorption was ceased 15 hours later, the reaction was terminated; then, the resulting solution was neutralized with saturated sodium bicarbonate solution, followed by distillation, to recover nonafluoropentane (1,1,1,2,4,4,5,5,5- and 1,1,1,3,4,4,5,5,5-nonafluoropentane mixture)(at a total purity of 99.7%; 10.4 g).

reactant | 1,1,1,2,3,4,4,5,5,5-decafluoropentane | FC(C(C(C(C(F)(F)F)(F)F)F)F)(F)F | C5H2F10
reactant | potassium carbonate | 4M | C([O-])([O-])=O.[K+].[K+]
product | 1,1,1,2,4,4,5,5,5-nonafluoropentane | FC(C(CC(C(F)(F)F)(F)F)F)(F)F | C5H3F9
